US08222219B2
2-(2-Pyridyl)thiophene and 5-bromo-2-chlorobenzaldehyde obtained in Reference Example 16-(1) were treated in a manner similar to Reference Example 7-(1) to give 5-bromo-2-chlorophenyl-5-(2-pyridyl)-2-thienylmethanol as colorless powder. APCI-Mass m/Z 380/382 (M+H). (2) A solution of the above 5-bromo-2-chlorophenyl-5-(2-pyridyl)-2-thienylmethanol (3.52 g) in trifluoroacetic acid (45 ml) was added to a solution of sodium borohydride (1.75 g) in trifluoroacetic acid (45 ml), and the mixture was stirred at room temperature for 4 hours. Trifluoroacetic acid was evaporated under reduced pressure. The residue was basified with an aqueous potassium hydroxide solution, and extracted with diethyl ether. The extract was dried over sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1-4:1) to give 5-bromo-2-chloro-1-(5-(2-pyridyl)-2-thienylmethyl)benzene (2.42 g) as a colorless solid. APCI-Mass m/Z 364/366 (M+H).

reactant | 2-(2-Pyridyl)thiophene | N1=C(C=CC=C1)C=1SC=CC1 | C9H7NS
reactant | 5-bromo-2-chlorobenzaldehyde | BrC=1C=CC(=C(C=O)C1)Cl | C7H4BrClO
product | 5-bromo-2-chlorophenyl-5-(2-pyridyl)-2-thienylmethanol | BrC=1C=CC(=C(C1)C(O)C=1SC(=CC1)C1=NC=CC=C1)Cl | C16H11BrClNOS
